US08476253B2
1-{2-[(6-Aminohexanoyl)(methyl)amino]ethyl}piperidin-4-yl biphenyl-2-ylcarbamate
1-[2-(Methylamino)ethyl]piperidin-4-yl biphenyl-2-ylcarbamate (500 mg, 1.41 mmol) was dissolved in methylene chloride (5 mL), triethylamine (0.236 mL, 1.70 mmol) and 6-bromohexanoyl chloride (0.232 mL, 1.56 mmol) were added under ice cooling, and the mixture was stirred at room temperature for 20 minutes. Water was added to the reaction mixture, the reaction mixture was extracted with ethyl acetate (×3), and the organic layer was washed with saturated sodium chloride solution. The organic layer was dried with anhydrous sodium sulfate, then the solvent was evaporated under reduced pressure, the resulting residue was dissolved in N,N-dimethylformamide (3 mL), sodium azide (110 mg, 1.69 mmol) was added, and the mixture was stirred at 60° C. for 5 hours. The reaction mixture was diluted with ethyl acetate, and then the organic layer was washed successively with water (×3) and saturated sodium chloride solution. The organic layer was dried with anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. Triphenylphosphine (555 mg, 2.12 mmol) and water (38 μL, 2.12 mmol) were added to a solution of the resulting residue in tetrahydrofuran (14 mL) under ice cooling, and the mixture was stirred overnight at room temperature. The solvent of the reaction mixture was evaporated under reduced pressure, and the resulting residue was purified by NH silica gel column chromatography (ethyl acetate:methanol=100:0→10:1, v/v) to give the title compound (493 mg; yield, 75%) as a yellow oily substance.

reactant | 1-[2-(Methylamino)ethyl]piperidin-4-yl biphenyl-2-ylcarbamate | 1.41 mmol, 500 mg | C1(=C(C=CC=C1)NC(OC1CCN(CC1)CCNC)=O)C1=CC=CC=C1 | C21H27N3O2
reactant | triethylamine | 1.70 mmol, 0.236 mL | C(C)N(CC)CC | C6H15N
reactant | 6-bromohexanoyl chloride | 1.56 mmol, 0.232 mL | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | sodium azide | 1.69 mmol, 110 mg | [N-]=[N+]=[N-].[Na+]
reactant | Triphenylphosphine | 2.12 mmol, 555 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | water | 2.12 mmol, 38 μL | O | H2O
product | 1-{2-[(6-Aminohexanoyl)(methyl)amino]ethyl}piperidin-4-yl biphenyl-2-ylcarbamate | 493 mg, 75% | C1(=C(C=CC=C1)NC(OC1CCN(CC1)CCN(C)C(CCCCCN)=O)=O)C1=CC=CC=C1 | C27H38N4O3
